US07105563B2
4-Acetylimidazole (0.7 g, 3.1 mmol) and 5-nitroindolin-2-one (0.56 g, 3.1 mmol) in sealed tube were heated in the presence of piperidine at 135° C. After 30 minutes, the reaction mixture was cooled to ambient temperature and concentrated. Recrystallization from ethanol afforded 0.66 g of 5-nitro-3-[1-(imidazol-4-yl)ethylidene]indolin-2-one.

reactant | 4-Acetylimidazole | 3.1 mmol, 0.7 g | C(C)(=O)C=1N=CNC1 | C5H6N2O
reactant | 5-nitroindolin-2-one | 3.1 mmol, 0.56 g | [N+](=O)([O-])C=1C=C2CC(NC2=CC1)=O | C8H6N2O3
reactant | piperidine | N1CCCCC1 | C5H11N
product | 5-nitro-3-[1-(imidazol-4-yl)ethylidene]indolin-2-one | 0.66 g | [N+](=O)([O-])C=1C=C2C(C(NC2=CC1)=O)=C(C)C=1N=CNC1 | C13H10N4O3
